US04228069
[N-t-butyl-N'-(1-acetoxycyclohexyl)diazine N'-oxide]
To 50 ml. of a 25% solution of peracetic acid in ethyl acetate in a 100 ml. 3-neck round bottom flask equipped with a magnetic stirrer, thermometer and addition funnel was added 11.3 grams (0.05 moles) of 1-t-butylazo-1-acetoxycyclohexane from the addition funnel over 7 minutes. The temperature slowly rose from 13° C. to 311/2° C. The reaction was followed by gas chromatography and after 2 hours the azo was still not completely oxidized. An additional 15 ml. of the peracetic acid solution was added and the reaction stirred an additional 2 hours to complete the oxidation. The reaction mixture was stirred into 200 ml. 10% sodium bicarbonate solution, stirred 5 minutes and the ethyl acetate layer separated. The ethyl acetate solution was rewashed with an additional 200 ml. of 10% NaHCO3, dried over anhydrous sodium sulfate, filtered and the ethyl acetate evaporated on a rotating evaporator under reduced pressure. The residue was a water white liquid weighing 11.8 grams (97.5% yield). The infrared spectrum of the product had a strong band at 1490 cm-1 and 3 bands between 1260 and 1300 cm-1 which were not present in the starting azo compound. J. N. Brough, B. Lythgoe and P. Waterhouse (J. Chem. Soc. 1954, 4069) reported the azoxy group absorbs at 1460-1500 and 1280-1320 cm-1.

reactant | peracetic acid | C(C)(=O)OO | C2H4O3
reactant | 1-t-butylazo-1-acetoxycyclohexane | 0.05 moles, 11.3 grams | C(C)(C)(C)N=NC1(CCCCC1)OC(C)=O | C12H22N2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-t-butyl-N'-(1-acetoxycyclohexyl)diazine N'-oxide | 97.5% yield | C(C)(C)(C)N1[N+](C=CC=C1)(C1(CCCCC1)OC(C)=O)[O-] | C16H26N2O3
